US05543520
In accordance with the eneral procedure described in Example 1, reaction of 100 mg (0.55 mmol) of 3-dimethylamino-1-(2-thienyl)-2-propen-1-one [described in EP-A-0 233 461] and 173 mg (0.55 mmol) of 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate gives N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(2-thienyl)-2-pyrimidine-amine; FAB-MS:370 (M+ +1), m.p. 115°-116°, Rf =0.95 (ethyl acetate).

reactant | 3-dimethylamino-1-(2-thienyl)-2-propen-1-one | 0.55 mmol, 100 mg | CN(C=CC(=O)C=1SC=CC1)C | C9H11NOS
reactant | 3-(1,1,2,2-tetrafluoroethoxy)phenylguanidine nitrate | 0.55 mmol, 173 mg | [N+](=O)(O)[O-].FC(C(F)F)(OC=1C=C(C=CC1)NC(=N)N)F
product | N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-4-(2-thienyl)-2-pyrimidine-amine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1SC=CC1)F | C16H11F4N3OS
